US08729273B2
Preparation 23: Synthesis of 1-(1H-indol-5-yl)-1,2,4-triazole-3-carboxylic acid methyl ester
1H-1,2,4-triazole-3-carboxylic acid methyl ester (1.12 g, 8.79 mmol), 1H-indol-5-ylboronic acid (1.42 g, 8.79 mmol), N,N-dimethylformamide (90 mL), copper (II) acetate (1.20 g, 6.60 mmol) and pyridine (1.40 mL, 17.3 mmol) were reacted according to the same procedure as Preparation 1 to give the title compound (519.7 mg, 2.15 mmol, 24% Yield).

reactant | 1H-1,2,4-triazole-3-carboxylic acid methyl ester | 8.79 mmol, 1.12 g | COC(=O)C1=NNC=N1 | C4H5N3O2
reactant | 1H-indol-5-ylboronic acid | 8.79 mmol, 1.42 g | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | pyridine | 17.3 mmol, 1.40 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) acetate | 6.60 mmol, 1.20 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | 1-(1H-indol-5-yl)-1,2,4-triazole-3-carboxylic acid methyl ester | 2.15 mmol, 519.7 mg, 24% Yield | COC(=O)C1=NN(C=N1)C=1C=C2C=CNC2=CC1 | C12H10N4O2
